US05236931
4-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-(phenylmethoxy)benzamide
A solution of 4-amino-5-chloro-2-(phenylmethoxy)benzoic acid (2.78 g, 10 mmol) in anhydrous tetrahydrofuran (10 mL) under nitrogen was treated with 1,1'-carbonyldiimidazole (1.87 g, 11.5 mmol), stirred for 45 minutes, and degassed over 15 minutes under a stream of nitrogen. A solution of 3-aminoquinuclidine (1.84 g, 14.6 mmol) in anhydrous tetrahydrofuran (5 mL) was added, and the mixture was stirred at room temperature for 18 hours, then concentrated in vacuo and partitioned between 3N sodium hydroxide (50 mL) and toluene (100 mL) containing some 2-propanol. The organic layer was separated and the aqueous solution was extracted with toluene (50 mL) containing some 2-propanol. The combined organic solution was dried (Na2SO4), concentrated in vacuo and rinsed with water in order to remove the remainins imidazole by-product. The residue was dried azeotropically with toluene, then taken up in tetrahydrofuran and filtered through a short column of alumina (eluted with 10% methanol/tetrahydrofuran). The filtrate was concentrated in vacuo, triturated from cold ether/petroleum ethers (30°-60° C.), and recrystallized from ethyl acetate/hexane to afford 3.18 g (82%) of colorless solid; mp 170°-171° C.

reactant | 4-amino-5-chloro-2-(phenylmethoxy)benzoic acid | 10 mmol, 2.78 g | NC1=CC(=C(C(=O)O)C=C1Cl)OCC1=CC=CC=C1 | C14H12ClNO3
reactant | 1,1'-carbonyldiimidazole | 11.5 mmol, 1.87 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminoquinuclidine | 14.6 mmol, 1.84 g | NC1CN2CCC1CC2 | C7H14N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-(phenylmethoxy)benzamide | 3.18 g, 82% | NC1=CC(=C(C(=O)NC2CN3CCC2CC3)C=C1Cl)OCC1=CC=CC=C1 | C21H24ClN3O2
